US07399759B2
tert-Butyl (E)-3-(6-cyano-2-pyridyl)-2-propenoate
tert-Butyl (E)-3-(1-oxido-2-pyridyl)-2-propenoate (2.10 g, 9.5 mmol) was dissolved in nitroethane (10 ml), and trimethylsilyl cyanide (1.88 g, 19.0 mmol) and N,N-dimethylcarbamoyl chloride (2.04 g, 19.0 mmol) were added thereto. The reaction mixture was stirred at room temperature for 18 hrs and combined with ethyl acetate and water. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and dried over anhydrous magnesium sulfate. The solvent was evaporated. The residue was subjected to a silica gel column chromatography. The fractions eluted with hexane-ethyl acetate (5:1, v/v) were collected and concentrated to give the titled compound (2.18 g, ca. 100%).

reactant | tert-Butyl (E)-3-(1-oxido-2-pyridyl)-2-propenoate | 9.5 mmol, 2.10 g | [O-][N+]1=C(C=CC=C1)/C=C/C(=O)OC(C)(C)C | C12H15NO3
reactant | trimethylsilyl cyanide | 19.0 mmol, 1.88 g | C[Si](C)(C)C#N | C4H9NSi
reactant | N,N-dimethylcarbamoyl chloride | 19.0 mmol, 2.04 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | nitroethane | 10 ml | [N+](=O)([O-])CC | C2H5NO2
solvent | water | O | H2O
product | tert-Butyl (E)-3-(6-cyano-2-pyridyl)-2-propenoate | 2.18 g, ca. 100% | C(#N)C1=CC=CC(=N1)/C=C/C(=O)OC(C)(C)C | C13H14N2O2
